US06288062B1
(a) 1-(4-Fluorophenyl)-2-(4-pyridyl)ethanone oxime
To a solution of 4-fluorophenyl-2-(4-pyridyl)acetophenone (8.08 g, 37.6 mmol) [See PCT/US93/00674, Adams et al., WO93/14081] in EtOH (80 mL) was added hydroxylamine hydrochloride (4.12 g, 59.7 mmol) and pyridine (4.8 mL, 59.7 mmol). The mixture was stirred at 60 ° C. for 1 h, then poured into H2O and stirred an additional 1 min. The resulting precipitate was filtered and washed with H2O. The precipitate was recrystallized from EtOH/H2O to give the title compound as a white solid (6.29 g): mp 135-136° C.

reactant | 4-fluorophenyl-2-(4-pyridyl)acetophenone | 37.6 mmol, 8.08 g | FC1=CC=C(C=C1)C(C(=O)C1=CC=CC=C1)C1=CC=NC=C1 | C19H14FNO
reactant | hydroxylamine hydrochloride | 59.7 mmol, 4.12 g | Cl.NO
reactant | pyridine | 59.7 mmol, 4.8 mL | N1=CC=CC=C1 | C5H5N
reactant | H2O | O | H2O
solvent | EtOH | 80 mL | CCO | C2H6O
product | 1-(4-Fluorophenyl)-2-(4-pyridyl)ethanone oxime | 6.29 g | FC1=CC=C(C=C1)C(CC1=CC=NC=C1)=NO | C13H11FN2O
